Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p Pedestrian struck  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This patient is a ___ year old male with unknown past
medical history who has been brought in by EMS status post
pedestrian struck.
 
Per EMS report, the patient was struck by a car today at
approximately 15:00. Bystanders report the car was traveling
approximately 35 miles per hour, and the damage to the car
was minimal. The patient sustained abrasions and lacerations
to the right cheek and the top of his head. He arrives with
an externally rotated right lower extremity. He arrives
complaining of head and right lower extremity pain.
                       
 
Past Medical History:
Unknown
 
Family History:
Noncontributory
 
Physical Exam:
 upon admission:  ___
 
HR: 91 BP: 134/98 Resp: 18 O(2)Sat: 97 Normal
 
Constitutional: Moderate distress secondary to pain
HEENT: Pupils equal, round and reactive to light,
Extraocular muscles intact Right eye laceration, down to
bone. Right cheek abrasion. Scalp laceration, covered.
No blood in the nares, bilaterally. Oropharynx is
unremarkable. No hemotympanum. Cervical collar in place
Chest: No chest wall crepitus, tenderness, or subcutaneous
air, Clear to auscultation bilaterally
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender, Nondistended
Pelvic: Pelvis stable to compression. No blood at the
meatus.
Extr/Back: Right lower extremity externally rotated.
Tenderness to palpation over the right femur. Mid-thoracic
tenderness to palpation without step offs.
Skin: Warm and dry
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
 

 
Pertinent Results:
___ 06:50AM BLOOD WBC-6.8 RBC-3.52* Hgb-11.3* Hct-35.3* 
MCV-100* MCH-32.0 MCHC-32.0 RDW-13.8 Plt ___
___ 04:45PM BLOOD WBC-9.5 RBC-3.72* Hgb-12.3* Hct-37.2* 
MCV-100* MCH-33.1* MCHC-33.1 RDW-13.6 Plt ___
___ 06:50AM BLOOD Plt ___
___ 04:45PM BLOOD Plt ___
___ 04:45PM BLOOD ___ PTT-29.1 ___
___ 04:45PM BLOOD ___ 06:50AM BLOOD Glucose-138* UreaN-11 Creat-0.9 Na-140 
K-4.2 Cl-105 HCO3-23 AnGap-16
___ 06:50AM BLOOD Calcium-7.9* Phos-2.4* Mg-2.0
___ 04:51PM BLOOD freeCa-1.06*

___:  chest x-ray:

Elevated left hemidiaphragm, otherwise unremarkable.  Please 
refer to subsequent CT torso for further details. 

___: CT c-spine:
Left first posterior rib fracture. Emphysema. 

___:  CT scan of the head:
IMPRESSION:  Small left extra-axial hemorrhage along the 
tentorium with large right frontal subgaleal hematoma.

___:  CT scan of abdomen and pelvis:
 IMPRESSION: 
1.  Posterior left first rib nondisplaced fracture. 
2.  Moderate-to-severe centrilobular emphysema with bibasilar 
atelectasis.

___:  x-ray of right shoulder:

FINDINGS:  Two views of the right humerus were obtained 
demonstrating no acute fracture.  Mild right AC joint 
arthropathy is noted.  Limited views of the right elbow and 
right shoulder demonstrate no dislocation. 

___:  Right tib/fib x-ray:
IMPRESSION: 
1.  Lipohemarthrosis at the level of the right knee raises 
concern for an 
occult fracture of the proximal tibia.  Recommend CT to further 
assess. 
2.  Segmental fractures involving the proximal shaft of the 
right fibula with minimal displacement

___:  Right hand x-ray:
Comminuted fracture of the base of the fifth metacarpal. 

___:  CT scan of the head:
Unchanged small left extra-axial tentorial subdural hematoma and 
right frontal subgaleal hematoma.

___:  right wrist x-ray:
Overlying cast greatly obscures bony detail.  Comminuted 
fracture 
of the base of the fifth metacarpal is again seen, with 
substantially less displacement of the fracture fragments. 

___:  Right ankle x-ray:
Stress views show the ankle mortise to be quite well maintained.
  

CT chest/abd/pelvis:
IMPRESSION: 
1.  Posterior left first rib nondisplaced fracture. 
2.  Moderate-to-severe centrilobular emphysema with bibasilar 
atelectasis. 

___ 04:51PM   GLUCOSE-149* LACTATE-1.8 NA+-143 K+-4.0 
CL--109* TCO2-25
___ 04:51PM   HGB-12.7* calcHCT-38 O2 SAT-82 CARBOXYHB-2 
MET HGB-0
___ 04:45PM   UREA N-11 CREAT-1.3*
___ 04:45PM   LIPASE-34
___ 04:45PM   WBC-9.5 RBC-3.72* HGB-12.3* HCT-37.2* 
MCV-100* MCH-33.1* MCHC-33.1 RDW-13.6
___ 04:45PM   PLT COUNT-310
___ 04:45PM   ___ PTT-29.1 ___
 
Brief Hospital Course:
The patient was admitted to the acute care service after he was 
struck by a motor vehicle.  He did not sustain any loss of 
consciousness.  Upon admission, he was made NPO, given 
intravenous fluids, and underwent imaging.  He was reported to 
have sustained a right hand, ankle, and a fibula fracture.  He 
also sustained facial abrasions and a small bleed in his head. 
On tertiary examination, he was reported to have a fracture of 
the right ___ metacarpal.  His vital signs were closely 
monitored during his hospitalization.

Because of his injuries, several services were consulted. The 
orthopedic service was consulted in regards to his right fibula 
fracture and right knee effusion.  As per their recommendation, 
a right knee immoblizer was applied and he progressed to weight 
bearing as tolerated. Cat scan of his head showed a small 
extra-axial left tentorial hemorrhage without focal neurologic 
deficits. His neurological status was monitored and no surgical 
intervention was indicated. On tertiary survey, the patient was 
found to have a right fifth metarcarpal fracture, and the hand 
service was consulted.  Closed reduction was attempted and a 
splint was applied. The patient removed the splint and a cast 
was applied.  Vascular assessment was performed and there was no 
vascular compromise reported. The patient was noted to have 
increased right eye swelling on HD #3 and the Opthamology 
service was consulted. The patient did not report any visual 
changes. On examination, he was reported to have a 
subconjunctival hemorrhage with mucoid discharge.  The patient 
was placed on erythromycin eye oinment and bacitracin ointment 
to his right brow abrasions.  

During his hospitalization, his vital and neurological signs 
have been stable. He has been encouraged to use the incentive 
spirometer.  He has been tolerating a regular diet.  His 
electrolytes have been closely monitored and borderline levels 
repleted.   

The patient was evaluated by physical therapy and 
recommendations made for discharge to an extended care facility 
where he will have the opportunity to regain his strength and 
return to his baseline activity level.  Follow-up appoinments 
have been scheduled with Orthopedics, Opthamology, Acute care 
service and the hand service.   
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Heparin 5000 UNIT SC TID 
3. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
hold for increased sedation, resp. rate <12 
4. TraMADOL (Ultram) 25 mg PO Q6H 
5. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing, 
shortness of breath 
6. Ipratropium Bromide Neb 1 NEB IH Q6H 
7. Docusate Sodium 100 mg PO BID 
8. Senna 1 TAB PO BID:PRN constipation  
9. Bacitracin Ointment 1 Appl TP QID 
apply to upper right eyelid abrasions 
10. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE QID 
11. Lidocaine 5% Patch 1 PTCH TD DAILY 
Apply to right knee, lower extremity daily (12 hours on, 12 
hours off). 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p Pedestrian struck
Injuries:
Right laceration above eye down to bone
Right fibula fracture/medial malleous fracture  
Comminuted fracture of base Right ___ metacarpal  
Left post rib ___ fracture  
 

 
Discharge Condition:
Mental Status: Clear and coherent ( ___ interpreter)
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital after you were struck by a 
vehicle.  You sustained facial abrasions, a left rib fracture, a 
small bleed in your head, and a right lower leg fracture. 
Because of your injuries, you were seen by several services.  
You did not require any surgical intervention.  Your vital signs 
have been stable.  You were seen by physical therapy and 
recommendations made for discharge to a rehabilitation facility 
where you can further regain your strength and mobility.   
 
Followup Instructions:
___